US04517187
To a stirred solution of cis-1,3,4,6,7,11b-hexahydro-2-methyl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline (11.0 g, 0.039 m) in chloroform (1500 ml) was added sodium bicarbanate (83.1 g, 0.99 m) and methyl chloroformate (45.3 g, 0.48 m), and the mixture heated to reflux for 48 hours. The salts were removed by filtration and the organic phase washed with 5% HCl (3×300 ml) and water (300 ml) and dried over MgSO4. The solvent was evaporated and the oily residue treated with 95% hydrazine (250 ml) and refluxed for 24 hours. Water (500 ml) was added and the mixture evaporated to an oily residue. This was treated with water (500 ml) and a small amount of 50% NaOH to ensure pH 11, and the mixture extracted with chloroform (3×250 ml). The extracts were dried over MgSO4 and evaporated to a yellow oil. This was dissolved in methanol (50 ml) and isopropanol (50 ml) and acidified with HCl gas. Upon standing and cooling, a white solid crystallized, which was collected by filtration. Recrystallization from methanol/isopropanol/water and vacuum drying gave 6.4 g of cis-1,3,4,6,7,11b-hexahydro-7-phenyl-2H-pyrazino[2,1-a]isoquinoline dihydrochloride, m.p. 275°-277°. The product has an ad cyc H rating greater than 1×10-5M, a (3H)mepyramine rating greater than 1×10-6M and a (3H)QNB of 9.2×10-7M.

reactant | cis-1,3,4,6,7,11b-hexahydro-2-methyl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline | 11.0 g | CN1C[C@@H]2N(C[C@H](C3=CC=CC=C23)C2=CC=CC=C2)CC1 | C19H22N2
reactant | sodium | [Na] | Na
reactant | methyl chloroformate | 45.3 g | ClC(=O)OC | C2H3ClO2
solvent | chloroform | 1500 ml | C(Cl)(Cl)Cl | CHCl3
product | cis-1,3,4,6,7,11b-hexahydro-7-phenyl-2H-pyrazino[2,1-a]isoquinoline dihydrochloride | 6.4 g | Cl.Cl.C1(=CC=CC=C1)[C@@H]1CN2[C@H](C3=CC=CC=C13)CNCC2 | InChI=1S/C18H20N2.2ClH/c1-2-6-14(7-3-1)17-13-20-11-10-19-12-18(20)16-9-5-4-8-15(16)17;;/h1-9,17-19H,10-13H2;2*1H/t17-,18-;;/m0../s1
